US05998433
c) Synthesis of 1-(2-dimethylaminomethyl-6,7-dihydro-4H-furo[3,2-c]pyridin-5-yl)-6-(4-fluorophenyl)hexan-1-one hydrochloride
1-(2-Dimethylaminomethyl-6,7-dihydro-4H-furo[3,2-c]pyridin-5-yl)-6-(4-fluorophenyl)hexan-1-one 0.231 g was dissolved in 2 ml of methanol; hydrogen chloride in ethyl acetate was added in excess, followed by stirring. This mixture was concentrated and washed with diethyl ether to yield the desired product.

reactant | 1-(2-Dimethylaminomethyl-6,7-dihydro-4H-furo[3,2-c]pyridin-5-yl)-6-(4-fluorophenyl)hexan-1-one | 0.231 g | CN(C)CC1=CC=2CN(CCC2O1)C(CCCCCC1=CC=C(C=C1)F)=O | C22H29FN2O2
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | 2 ml | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(2-dimethylaminomethyl-6,7-dihydro-4H-furo[3,2-c]pyridin-5-yl)-6-(4-fluorophenyl)hexan-1-one hydrochloride | Cl.CN(C)CC1=CC=2CN(CCC2O1)C(CCCCCC1=CC=C(C=C1)F)=O | InChI=1S/C22H29FN2O2.ClH/c1-24(2)16-20-14-18-15-25(13-12-21(18)27-20)22(26)7-5-3-4-6-17-8-10-19(23)11-9-17;/h8-11,14H,3-7,12-13,15-16H2,1-2H3;1H
